US04874864
4-Guanidino-N-(quinol-8-yl)benzamide (HET =8-quinolyl; n =0; and R1 =H)
A mixture of 200 mg. (.92 m. mol) 4-guanidinobenzoic acid hydrochloride and 190 mg. (.93 m. mol) of bis-trimethylsilylacetamide in 20 ml. of dry tetrahydrofuran was heated at reflux until a solution was achieved, and then cooled to room temperature. Thionyl chloride (380 mg., 1.86 m. mol) was added and the reaction mixture allowed to stir for 5 min. 8-Aminoquinoline (670 mg., 4.64 m. mol) was added in 5 ml. of tetrahydrofuran and the mixture allowed to stir for 30 min. Water (.2 ml) was added to the reaction mixture and the solids filtered and dissolved in 60 ml. of methanol and 120 ml. of chloroform. Addition of diethyl ether precipitated the desired product, 153 mg., m.p. 271°-273° C.

reactant | 4-guanidinobenzoic acid hydrochloride | Cl.N(C(=N)N)C1=CC=C(C(=O)O)C=C1
reactant | bis-trimethylsilylacetamide | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | Thionyl chloride | 380 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 8-Aminoquinoline | 670 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
solvent | Water | .2 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Guanidino-N-(quinol-8-yl)benzamide | N(C(=N)N)C1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1 | C17H15N5O
